US08202881B2
A mixture of 3-(7-(dicyclopropylcarbamoyl)-6-ethyl-1-methyl-1,6-dihydroimidazo[4,5-d]pyrrolo[2,3-b]pyridin-4-ylamino)-1-methyl-1H-pyrazole-5-carboxylic acid (39.8 mg, 0.086 mmol), HATU (49.0 mg, 0.129 mmol) and dimethylamine, 2M in THF (0.086 mL, 0.172 mmol) in DMF (2 mL) was stirred at room temperature for 2 h. Water was added and the reaction mixture was extracted with ethyl acetate 3 times. The combined organic layers were washed twice with 10% lithium chloride, dried over magnesium sulfate, filtered and concentrated in vacuo. The crude was purified by preparative HPLC to give N,N-dicyclopropyl-4-(5-(dimethylcarbamoyl)-1-methyl-1H-pyrazol-3-ylamino)-6-ethyl-1-methyl-1,6-dihydroimidazo[4,5-d]pyrrolo[2,3-b]pyridine-7-carboxamide (23 mg, 54.1% yield) as an off-white solid.

reactant | 3-(7-(dicyclopropylcarbamoyl)-6-ethyl-1-methyl-1,6-dihydroimidazo[4,5-d]pyrrolo[2,3-b]pyridin-4-ylamino)-1-methyl-1H-pyrazole-5-carboxylic acid | 0.086 mmol, 39.8 mg | C1(CC1)N(C(=O)C1=CC=2C(=NC(=C3C2N(C=N3)C)NC3=NN(C(=C3)C(=O)O)C)N1CC)C1CC1 | C23H26N8O3
reactant | HATU | 0.129 mmol, 49.0 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | dimethylamine | CNC | C2H7N
reactant | THF | 0.172 mmol, 0.086 mL | C1CCOC1 | C4H8O
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
solvent | Water | O | H2O
product | N,N-dicyclopropyl-4-(5-(dimethylcarbamoyl)-1-methyl-1H-pyrazol-3-ylamino)-6-ethyl-1-methyl-1,6-dihydroimidazo[4,5-d]pyrrolo[2,3-b]pyridine-7-carboxamide | 23 mg, 54.1% yield | C1(CC1)N(C(=O)C1=CC=2C(=NC(=C3C2N(C=N3)C)NC3=NN(C(=C3)C(N(C)C)=O)C)N1CC)C1CC1 | C25H31N9O2
